US04665181
Step (a), Production of 5-Aminophthalide
Twenty grams of 4-aminophthalimide was added to a mixture of 41 gm zinc and 122 gm sodium hydroxide in 50 ml water (with good stirring) over 30 minutes. The mixture was stirred another 30 minutes, then heated to 60°. When ammonia ceased to be evolved the mixture was heated for an additional 60 minutes, then cooled to about 30°. The zinc residues were filtered off and the solution was acidified with 30 ml concentrated hydrochloric acid. The solution was heated to 90° for 45 minutes, then cooled and neutralized with 20 gm solid sodium carbonate, which brought the pH to 8-9. The product was filtered, washed with water and air dried. Wt=16.8 gm, m.p.=177°-189°.

reactant | 4-aminophthalimide | Twenty grams | NC=1C=C2C(C(=O)NC2=O)=CC1 | C8H6N2O2
reactant | sodium hydroxide | 122 gm | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | water | 50 ml | O | H2O
catalyst | zinc | 41 gm | [Zn] | Zn
product | 5-Aminophthalide | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
